US09169261B2
Synthesis of 2-o-tolyl-thiazole-4-carboxylic acid
2-o-Tolyl-thiazole-4-carboxylic acid ethyl ester (550 mg, 2.22 mmol) was dissolved in a mixture of THF (1.0 mL) and MeOH (1.0 mL). To this was added NaOH (20% aqueous, 0.444 mL). The reaction mixture was stirred overnight and was then diluted with CH2Cl2 (30 mL) and washed with 1M NaHSO4 (30 mL). The aqueous layer was extracted with CH2Cl2 (2×30 mL), then the combined organic layers were washed with water (1×30 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to give the product (434 mg, 1.98 mmol, 89%) as a white solid.

reactant | 2-o-Tolyl-thiazole-4-carboxylic acid ethyl ester | 2.22 mmol, 550 mg | C(C)OC(=O)C=1N=C(SC1)C1=C(C=CC=C1)C | C13H13NO2S
reactant | NaOH | 0.444 mL | [OH-].[Na+]
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1.0 mL | CO | CH4O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-o-tolyl-thiazole-4-carboxylic acid | 1.98 mmol, 434 mg, 89% | C1(=C(C=CC=C1)C=1SC=C(N1)C(=O)O)C | C11H9NO2S
